US07396958B2
N-[2-(2,6-difluorobenzyl)-6-methoxyphenyl]-N-[(3,4-dimethoxyphenyl)sulfonyl]-(R)-alanine
To 0.164 g of methyl N-[2-(2,6-difluorobenzyl)-6-methoxyphenyl]-N-[(3,4-dimethoxyphenyl)sulfonyl]-(R)-alaninate dissolved in 8 ml of a 1,4-dioxane/water mixture (4/1) is added, at room temperature, 0.015 g of lithium hydroxide monohydrate. The mixture is left at room temperature for 48 hours. The reaction medium is washed with 1M hydrochloric acid solution and extracted with ethyl acetate. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel, eluting with a dichloromethane/ethanol mixture to give 0.08 g of the expected product.

reactant | methyl N-[2-(2,6-difluorobenzyl)-6-methoxyphenyl]-N-[(3,4-dimethoxyphenyl)sulfonyl]-(R)-alaninate | 0.164 g | FC1=C(CC2=C(C(=CC=C2)OC)N([C@H](C)C(=O)OC)S(=O)(=O)C2=CC(=C(C=C2)OC)OC)C(=CC=C1)F | C26H27F2NO7S
reactant | lithium hydroxide monohydrate | 0.015 g | O.[OH-].[Li+]
solvent | 1,4-dioxane water | 8 ml | O1CCOCC1.O
product | N-[2-(2,6-difluorobenzyl)-6-methoxyphenyl]-N-[(3,4-dimethoxyphenyl)sulfonyl]-(R)-alanine | 0.08 g | FC1=C(CC2=C(C(=CC=C2)OC)N([C@H](C)C(=O)O)S(=O)(=O)C2=CC(=C(C=C2)OC)OC)C(=CC=C1)F | C25H25F2NO7S
